2145-07-27 06:06:00 Physician Resident Progress Note
Chief Complaint: SVC Syndrome, requiring TPA
   24 Hour Events:
 SHEATH - START [**2145-7-26**] 05:48 PM
   venous sheath for TPA with side port infusing heparin
 INDWELLING PORT (PORTACATH) - START [**2145-7-26**] 06:59
   - [**2145-7-26**] started on TPA and heparin  for port associated clot
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Heparin Sodium - 200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-27**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 92 (92 - 117) bpm
   BP: 135/86(96) {107/74(79) - 135/106(113)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    273 mL
                                                                     64 mL
   PO:
             TF:
                                                                    240 mL
   IVF:
                                                                     33 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,200 mL
   Urine:
                                                                    900 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -627 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General: alert and oriented X 3, NAD
   HEENT: PERRLA, sclera anicteric, MMM
   CV: RRR S1 S2, no rubs murmurs or gallops
   Resp: CTAB
   Abdoman: soft/ NT/ND positive bowel sounds
   Ext: no apparent edema, TEDs in place
   Peripheral Vascular: +2 radial pulses b/L, +2 DP pulses B/l
   Skin:  pink, dry, intact, no ulcers, wounds or rashes
   Neurologic: CN II- XII intact, strength 5/5 b/l in both extremities,
   DTRs symmetric b/l, cerebellar function intact via finger-nose-finger
   Labs / Radiology
   144 K/uL
   11.8 g/dL
   75 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   9 mg/dL
   106 mEq/L
   137 mEq/L
   33.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
   WBC
   5.3
   4.8
   Hct
   34.7
   33.9
   Plt
   117
   105
   124
   144
   Cr
   0.5
   Glucose
   75
   Other labs: PT / PTT / INR:12.9/38.5/1.1, ALT / AST:42/27, Alk Phos / T
   Bili:178/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:436 mg/dL, LDH:185 IU/L, Ca++:8.0 mg/dL, Mg++:1.7
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 SUPERIOR VENA CAVA SYNDROME (SVC)
   A/P: 61 y oM c metastatic esophageal CA p/w SVC syndrome [**3-8**] port
   associated thrombosis who is being transferred to the [**Hospital Unit Name 44**] for closer
   monitoring in setting of tPA infusion.
   .
   # SVC syndrome - Secondary to port associated clot that is tracking
   upwards into the azygos vein. Port was placed in [**8-10**]. Although pt had
   not been on anti-coagulation 5 days prior to admission, he had
   previously been on lovenox for one month and thus will required
   lifelong anticoagulation. Thus far, no evidence of airway obstruction.
   IR started tPA infusion and patient was transferred to [**Hospital Unit Name 44**] for
   monitoring.  IR assessed patient after 24 hours on tPA: partial
   resolution of clot
   - On heparin drip at nontherapeutic dose until tPA stopped
   - Started tPA infusion with initial 2 mg bolus, then 0.5 mg/hr until
   5pm on [**2145-7-27**].
   - Monitor coags, fibrinogen, platelets q3h.
   - Monitor closely for any signs of bleeding.
   - Will need neuro exams checked q4h while on tPA infusion; however, no
   known h/o brain mets.
   - Repeat venogram/possible stent/angioplasty tomorrow
   - Check Fibrinogen at 15:00 [**7-27**].  If fibrinogen < 150, stop tPA and
   call IR (will likely need cyro transfusion); if <180, will call IR for
   lower dose.
   # Esophageal cancer - With known liver and lung mets. Patient was not
   able to tolerate most recent cycle of chemotherapy. Per OMED note,
   family meeting was done as outpatient and decision was made to not give
   further chemotherapy and try to focus on quality of life. Not CMO, and
   pt is still full code.
   - Further plan per primary oncology team.
   - Transfuse for Hct < 25, plts < 10K unless actively bleeding.
   .
   # h/o hypertension:  Previously on metoprolol.  Has been taking off
   recently and remains normotensive.  Maybe due to weight loss.
   - cont. to monitor BP
   .
   # FEN/GI - s/p 1 month course of TPN in setting of colitis s/p
   chemotherapy. Now tolerating pos with nutritional supplements. Megace
   also restarted.
   - Regular diet with ensure supplementation
   - Replete lytes prn
   - NPO after midnight for potential IR intervention tomorrow
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Sheath - [**2145-7-26**] 05:48 PM (axillary for tPA)
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   Prophylaxis:
   DVT:  heparin drip
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-07-27 12:15:00 Physician Attending Progress Note
Chief Complaint: SVC syndrome, thrombolysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events overnight.
   No recurrence of facial swelling.
   No clinical evidence for bleeding overnight.
   Returned to radiology (IR) for repeat venogram this AM --> possible
   angioplasty or stent placement.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-7-27**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 91 (90 - 117) bpm
   BP: 126/93(100) {107/74(79) - 135/106(113)} mmHg
   RR: 18 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    273 mL
                                                                    162 mL
   PO:
             TF:
                                                                    240 mL
   IVF:
                                                                     33 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,200 mL
   Urine:
                                                                    900 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -627 mL
                                                                 -1,038 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   120 K/uL
   75 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   9 mg/dL
   106 mEq/L
   137 mEq/L
   33.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
                             [**2145-7-27**]  08:05 AM
   WBC
   5.3
   4.8
   Hct
   34.7
   33.9
   Plt
   117
   105
   124
   144
   120
   Cr
   0.5
   Glucose
   75
   Other labs: PT / PTT / INR:14.0/69.2/1.2, ALT / AST:42/27, Alk Phos / T
   Bili:178/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:425 mg/dL, LDH:185 IU/L, Ca++:8.0 mg/dL, Mg++:1.7
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   61 yom metastatic esophageal CA p/w SVC syndrome --> tPA infusion.
   SVC SYNDROME -- port-associated clot in azygos vein.  Await repeat
   venogram to determine next intervention -- resume tPA vs.
   anticoagulation?  Possible repeat venogram in next 24-48 hrs.
   ESOPHOGEAL CA --  metastasis to liver and lung.  Further plan per
   primary oncology team.
   ANEMIA -- Transfuse for Hct < 25
   HTN -- Previously on metoprolol.  Has been taking off recently and
   remains normotensive.  Monitor.
   FLUIDS -- Maintain balance.
   NUTRITIONAL SUPPORT -- tolerating POs with nutritional supplements.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2145-7-26**] 05:48 PM
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-07-28 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2145-7-27**] 12:25 PM
   to L2 for angiography of clot in SVC. Found that clot has dissolved
   somewhat but is still there. No intervention at this time. Heparinf
   drip at 200u/hr through sheath and TPA through catheter intil 5PM.
   Restart therapeutic Heparin after catheter removed.
   -pt seen by IR for venography and clot retrieval.  Pt to return to IR
   for further clot removal on [**7-28**].
   -IR recommended dc'ing TPA and starting 1400 units heparin
   -HR to 110
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-28**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 100 (90 - 114) bpm
   BP: 131/89(99) {110/81(88) - 143/102(127)} mmHg
   RR: 17 (10 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    271 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                    271 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,250 mL
   Urine:
                                                                  2,550 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,279 mL
                                                                 -1,170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   12.2 g/dL
   90 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   102 mEq/L
   135 mEq/L
   35.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
                             [**2145-7-27**]  08:05 AM
                             [**2145-7-27**]  02:06 PM
                             [**2145-7-28**]  04:10 AM
   WBC
   5.3
   4.8
   7.7
   Hct
   34.7
   33.9
   34.4
   35.5
   Plt
   117
   105
   124
   144
   120
   119
   141
   Cr
   0.5
   0.6
   Glucose
   75
   90
   Other labs: PT / PTT / INR:14.2/90.3/1.2, ALT / AST:45/27, Alk Phos / T
   Bili:203/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:409 mg/dL, LDH:185 IU/L, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 SUPERIOR VENA CAVA SYNDROME (SVC)
   A/P: 61 y oM c metastatic esophageal CA p/w SVC syndrome [**3-8**] port
   associated thrombosis who is being transferred to the [**Hospital Unit Name 44**] for closer
   monitoring in setting of tPA infusion.
   .
   # SVC syndrome - Secondary to port associated clot that is tracking
   upwards into the azygos vein. Port was placed in [**8-10**]. Although pt had
   not been on anti-coagulation 5 days prior to admission, he had
   previously been on lovenox for one month and thus will required
   lifelong anticoagulation. Thus far, no evidence of airway obstruction.
   IR started tPA infusion and patient was transferred to [**Hospital Unit Name 44**] for
   monitoring.  IR assessed patient after 24 hours on tPA: partial
   resolution of clot
   - On heparin drip at nontherapeutic dose until tPA stopped
   - Started tPA infusion with initial 2 mg bolus, then 0.5 mg/hr until
   5pm on [**2145-7-27**].
   - Monitor coags, fibrinogen, platelets q3h.
   - Monitor closely for any signs of bleeding.
   - Will need neuro exams checked q4h while on tPA infusion; however, no
   known h/o brain mets.
   - Repeat venogram/possible stent/angioplasty tomorrow
   - Check Fibrinogen at 15:00 [**7-27**].  If fibrinogen < 150, stop tPA and
   call IR (will likely need cyro transfusion); if <180, will call IR for
   lower dose.
   # Esophageal cancer - With known liver and lung mets. Patient was not
   able to tolerate most recent cycle of chemotherapy. Per OMED note,
   family meeting was done as outpatient and decision was made to not give
   further chemotherapy and try to focus on quality of life. Not CMO, and
   pt is still full code.
   - Further plan per primary oncology team.
   - Transfuse for Hct < 25, plts < 10K unless actively bleeding.
   .
   # h/o hypertension:  Previously on metoprolol.  Has been taking off
   recently and remains normotensive.  Maybe due to weight loss.
   - cont. to monitor BP
   .
   # FEN/GI - s/p 1 month course of TPN in setting of colitis s/p
   chemotherapy. Now tolerating pos with nutritional supplements. Megace
   also restarted.
   - Regular diet with ensure supplementation
   - Replete lytes prn
   - NPO after midnight for potential IR intervention tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2145-7-26**] 05:48 PM
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-07-28 11:46:00 Physician Attending Progress Note
Chief Complaint: SVC syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new complaints.
   No bleeding.
   Return to angiography today --> reportedly no significant further
   resolution of clot.
   Voice remains hoarse.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-7-28**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 98 (90 - 114) bpm
   BP: 137/96(105) {110/55(88) - 143/102(127)} mmHg
   RR: 16 (10 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    271 mL
                                                                    147 mL
   PO:
             TF:
   IVF:
                                                                    271 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,250 mL
   Urine:
                                                                  2,550 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,279 mL
                                                                 -1,103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.2 g/dL
   141 K/uL
   90 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   102 mEq/L
   135 mEq/L
   35.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
                             [**2145-7-27**]  08:05 AM
                             [**2145-7-27**]  02:06 PM
                             [**2145-7-28**]  04:10 AM
   WBC
   5.3
   4.8
   7.7
   Hct
   34.7
   33.9
   34.4
   35.5
   Plt
   117
   105
   124
   144
   120
   119
   141
   Cr
   0.5
   0.6
   Glucose
   75
   90
   Other labs: PT / PTT / INR:14.2/90.3/1.2, ALT / AST:45/27, Alk Phos / T
   Bili:203/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:409 mg/dL, LDH:185 IU/L, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   61 yom metastatic esophageal CA p/w SVC syndrome --> s/p tPA infusion.
   SVC SYNDROME -- port-associated clot in azygos vein.  NO further
   interventions planned for IR.  [**Month (only) 60**] remove tunneled catheter per
   Surgery.  Will need to resume anticoagulation.
   ESOPHOGEAL CA --  metastasis to liver and lung.  Further plan per
   primary oncology team.
   ANEMIA -- Transfuse for Hct < 25
   HTN -- Previously on metoprolol.  Has been taking off recently and
   remains normotensive.  Monitor.
   FLUIDS -- Maintain balance.
   NUTRITIONAL SUPPORT -- tolerating POs with nutritional supplements.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2145-7-26**] 05:48 PM
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   Prophylaxis:
   DVT: Heparin anticoagulation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Transfer to medical [**Hospital1 **]
   Total time spent: 35 minutes

2145-07-29 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-28**]
   -IR sheath removed afternoon [**7-27**]
   -1x 5mg Ambien given
   -500cc fluid bolus given for tachycardia in the setting of NPO status
   for scheduled portacath removal
   - IR and oncology decided not to remove portacath: continue
   anticoagulation and monitor status
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-29**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 109 (92 - 118) bpm
   BP: 112/89(94) {104/71(79) - 137/99(105)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    692 mL
                                                                     87 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    452 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                  1,000 mL
   Urine:
                                                                  2,125 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,433 mL
                                                                   -913 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   General: asleep, but easily arousable
   HEENT: dry mucus membranes
   CV: RRR S1S2, no murmurs auscultated; sinus tachycardia
   Lungs: decreased breath sounds at base, mild crakles at LLL
   Abdoman: soft/NT/ND +BS
   Ext: +2DP b/l,no edema
   Labs / Radiology
   141 K/uL
   12.2 g/dL
   90 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   102 mEq/L
   135 mEq/L
   35.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
                             [**2145-7-27**]  08:05 AM
                             [**2145-7-27**]  02:06 PM
                             [**2145-7-28**]  04:10 AM
   WBC
   5.3
   4.8
   7.7
   Hct
   34.7
   33.9
   34.4
   35.5
   Plt
   117
   105
   124
   144
   120
   119
   141
   Cr
   0.5
   0.6
   Glucose
   75
   90
   Other labs: PT / PTT / INR:14.1/86.3/1.2, ALT / AST:45/27, Alk Phos / T
   Bili:203/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:409 mg/dL, LDH:185 IU/L, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 SUPERIOR VENA CAVA SYNDROME (SVC)
   A/P: 61 y oM c metastatic esophageal CA p/w SVC syndrome [**3-8**] port
   associated thrombosis who was transferred to the [**Hospital Unit Name 44**] for closer
   monitoring in setting of tPA infusion.  Now post tPA infusion, clot
   retrieval.
   .
   # SVC syndrome - Secondary to port associated clot that is tracking
   upwards into the azygos vein. Port was placed in [**8-10**]. Although pt had
   not been on anti-coagulation 5 days prior to admission, he had
   previously been on lovenox for one month and thus will required
   lifelong anticoagulation. Thus far, no evidence of airway obstruction.
   IR started tPA infusion and patient was transferred to [**Hospital Unit Name 44**] for
   monitoring.  Reassessment at 24 and 48 hrs on tPA showed only partial
   resolution of clot.
   - sheath for tPA administration removed
    -IR and oncology recommend leaving portacath in place and monitor
   patient clinical
   -cont. on longterm anticoagulation
   # Esophageal cancer - With known liver and lung mets. Patient was not
   able to tolerate most recent cycle of chemotherapy. Per OMED note,
   family meeting was done as outpatient and decision was made to not give
   further chemotherapy and try to focus on quality of life. Not CMO, and
   pt is still full code.
   - Followed by oncology
   - Transfuse for Hct < 25, plts < 10K unless actively bleeding.
   .
   # h/o hypertension:  Previously on metoprolol, but normotensive without
   med in unit.
   - consider re-starting metoprolol on DC
   .
   # FEN/GI - s/p 1 month course of TPN in setting of colitis s/p
   chemotherapy. Now tolerating pos with nutritional supplements. Megace
   also restarted.
   -patient was NPO after midnight for scheduled portacath removal,
   however pending cancellation of procedure (see above), pt can resume
   normal diet
   #sinus tachycardia: likely [**3-8**] mild hypovolemia; patient NPO after
   midnight with -1.6 fluid balance in past 24hrs
   -improved with fluid bolus of 500cc NS
   -no need for further tx as patient to resume normal diet
   ICU Care
   Nutrition: normal diet with nutritional supoplementation
   Glycemic Control:  unneeded
   Lines:
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable to discharge

2145-07-29 12:29:00 Physician Attending Progress Note
Chief Complaint: SVC syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Resumed heparin gtt.
   No bleeding.
   No further facial swelling.
   Right tunnelled central line to remain.
   Offers no complaints.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-7-29**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 94 (92 - 118) bpm
   BP: 140/90(103) {103/71(79) - 140/95(103)} mmHg
   RR: 18 (12 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    689 mL
                                                                    171 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    449 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                  1,450 mL
   Urine:
                                                                  2,125 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,436 mL
                                                                 -1,279 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   137 K/uL
   114 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   135 mEq/L
   36.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2145-7-26**]  08:21 PM
                             [**2145-7-26**]  10:52 PM
                             [**2145-7-27**]  02:08 AM
                             [**2145-7-27**]  04:43 AM
                             [**2145-7-27**]  08:05 AM
                             [**2145-7-27**]  02:06 PM
                             [**2145-7-28**]  04:10 AM
                             [**2145-7-29**]  05:45 AM
   WBC
   5.3
   4.8
   7.7
   6.5
   Hct
   34.7
   33.9
   34.4
   35.5
   36.5
   Plt
   117
   105
   124
   144
   120
   119
   141
   137
   Cr
   0.5
   0.6
   0.6
   Glucose
   75
   90
   114
   Other labs: PT / PTT / INR:13.9/75.4/1.2, ALT / AST:45/27, Alk Phos / T
   Bili:203/0.4, Differential-Neuts:60.4 %, Lymph:30.7 %, Mono:7.2 %,
   Eos:1.5 %, Fibrinogen:409 mg/dL, LDH:185 IU/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   61 yom metastatic esophageal CA p/w SVC syndrome --> s/p tPA infusion.
   SVC SYNDROME -- port-associated clot in azygos vein.  NO further
   interventions planned for IR.  [**Month (only) 60**] remove tunneled catheter per
   Surgery.  Will need to resume anticoagulation.
   ESOPHOGEAL CA --  metastasis to liver and lung.  Further plan per
   primary oncology team.
   ANEMIA -- Transfuse for Hct < 25
   HTN -- Previously on metoprolol.  Has been taking off recently and
   remains normotensive.  Monitor.
   FLUIDS -- Maintain balance.
   NUTRITIONAL SUPPORT -- tolerating POs with nutritional supplements
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2145-7-26**] 06:59 PM
   20 Gauge - [**2145-7-29**] 11:55 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill